US07326791B2
(d) N-(5-chloro-1H-benzimidazol-2-yl)methyl-3-methyl-4-(pyrrolidin-1ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine and C-(5-chloro-1H-benzimidazol-2-yl)methylamine in tetrahydrofuran. Yield: 99% (over 2 steps); Rf value: 0.77 (silica gel; dichloromethane/ethanol=4:1); C21H21ClN4O2 (396.88); mass spectrum: (M+H)+=397/399 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | C-(5-chloro-1H-benzimidazol-2-yl)methylamine | ClC1=CC2=C(NC(=N2)CN)C=C1 | C8H8ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-(5-chloro-1H-benzimidazol-2-yl)methyl-3-methyl-4-(pyrrolidin-1ylcarbonyl)benzamide | Yield: 99% | ClC1=CC2=C(NC(=N2)CNC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C21H21ClN4O2
